US03935197
3,9-Dimethyl-2-[2-methyl-2-(3,4,5-trimethoxyphenyl)ethenyl]-4H-pyrido[1,2-a]pyrimidin-4-one
To a solution of 1.3g of sodium methoxide in 75 ml of absolute methanol is added 2.0g of 2,3,9-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, followed by 4.2g of 3,4,5-trimethoxyacetophenone. The mixture is stirred and heated under reflux for 97 hours to yield the title compound.

reactant | sodium methoxide | 1.3g | C[O-].[Na+]
reactant | 2,3,9-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.0g | CC=1N=C2N(C(C1C)=O)C=CC=C2C | C11H12N2O
reactant | 3,4,5-trimethoxyacetophenone | 4.2g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
solvent | methanol | 75 ml | CO | CH4O
product | 3,9-Dimethyl-2-[2-methyl-2-(3,4,5-trimethoxyphenyl)ethenyl]-4H-pyrido[1,2-a]pyrimidin-4-one | CC1=C(N=C2N(C1=O)C=CC=C2C)C=C(C2=CC(=C(C(=C2)OC)OC)OC)C | C22H24N2O4
